US07402595B2
6-chloro-2-(methylphenylamino)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
Under an argon atmosphere, a solution (10 ml) of 6-chloro-2-methylamino-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (100 mg), triphenyl bismuth diacetate (162 mg) and copper(II) pivalate (85 mg) in dichloromethane was stirred at room temperature for 24 hrs. Subsequently, to the reaction mixture was added 4N hydrochloric acid, and the mixture was stirred at room temperature for 30 min. The reaction mixture was neutralized with aqueous sodium hydrogen carbonate and the resulting insoluble material was removed by filtration, and the filtrate was extracted with dichloromethane. The organic layer was washed with aqueous sodium hydrogen carbonate and brine, dried over sodium sulfate and concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to give the title compound (70 mg) as colorless crystals.

reactant | 6-chloro-2-methylamino-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 10 ml, 100 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)NC | C18H15ClN2O3
reactant | triphenyl bismuth diacetate | 162 mg | C(C)(=O)O.C(C)(=O)O.C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper(II) pivalate | 85 mg | C(C(C)(C)C)(=O)[O-].[Cu+2].C(C(C)(C)C)(=O)[O-]
product | 6-chloro-2-(methylphenylamino)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 70 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)N(C1=CC=CC=C1)C | C24H19ClN2O3
